US07345178B2
A suspension of 2-(2-nitrophenyl)thiazolo[4,5-c]pyridine (1.170 g, 4.6 mmol), Fe powder (1.26 g, 22.8 mmol) and NH4Cl (1.97 g, 36.8 mmol) in CH3OH : H2O (4:1, 80 mL) was refluxed for 6 hrs. The mixture was filtered and the filtrate was evaporated in vacuo. The residue was poured into water. The precipitate was collected by filtration, and washed with water (20 mL×3) to afford 2-thiazolo[4,5-c]pyridin-2-yl-phenylamine as a yellow solid (0.760 g, yield: 73%).

reactant | 2-(2-nitrophenyl)thiazolo[4,5-c]pyridine | 4.6 mmol, 1.170 g | [N+](=O)([O-])C1=C(C=CC=C1)C=1SC2=C(C=NC=C2)N1 | C12H7N3O2S
reactant | NH4Cl | 36.8 mmol, 1.97 g | [NH4+].[Cl-]
solvent | CH3OH H2O | 80 mL | CO.O
catalyst | Fe | 22.8 mmol, 1.26 g | [Fe] | Fe
product | 2-thiazolo[4,5-c]pyridin-2-yl-phenylamine | 0.760 g, yield: 73% | S1C(=NC=2C=NC=CC21)C2=C(C=CC=C2)N | C12H9N3S
